US07514419B2
Compound 7-17: [2,5-Dimethyl-4-(4′-hydroxy-3′-iso-propylbenzyl)-phenoxy]methylphosphonic acid
Intermediate 2,5-dimethyl-4-(3′-iso-propyl-4′-methoxymethoxy-benzyl)phenol was prepared from 2,5-dimethyl-4-bromo-t-butyldimethylsilyloxyphenol, and 3-iso-propyl-4-methoxymethoxy-benzaldehyde according to the procedure described in (Chiellini et al., Bioorg. Med. Chem. Lett. 10:2607 (2000)) and transformed into the title compound by the procedure used for the synthesis of compound 7-13, step b followed by example 7, step b, (0.14 g, 90%); 1H NMR (300 MHz, CD3OD): δ 6.88 (d, J=8.7 Hz, 2H), 6.79 (s, 1H), 6.64-6.72 (m, 2H), 4.20 (d, J=10.2 Hz, 2H), 3.80 (s, 2H), 3.10-3.15 (m, 1H), 2.22 (s, 3H), 2.20 (s, 3H), 1.17 (d, J=6.9 Hz, 6H); LC-MS m/z=365 [C20H25O6P+H]+; HPLC conditions: ODSAQ AQ-303-5 column; mobile phase=CH3OH: 0.05% TFA (7:3) flow rate=1.0 mL/min; detection=LUV @ 254 nm retention time in min: 10.96; Anal Calcd for (C20H25O6P+0.3H2O): C, 61.84; H, 6.92. Found: C, 61.60; H, 6.72.

reactant | 2,5-dimethyl-4-bromo-t-butyldimethylsilyloxyphenol | CC1=C(C=C(C(=C1O[Si](C)(C)C(C)(C)C)Br)C)O | C14H23BrO2Si
reactant | 3-iso-propyl-4-methoxymethoxy-benzaldehyde | C(C)(C)C=1C=C(C=O)C=CC1OCOC | C12H16O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH3OH | CO | CH4O
product | 2,5-dimethyl-4-(3′-iso-propyl-4′-methoxymethoxy-benzyl)phenol | CC1=C(C=C(C(=C1)CC1=CC(=C(C=C1)OCOC)C(C)C)C)O | C20H26O3
